US08877975B2
To a solution of (6-fluoro-naphthalen-2-yl)-methanol (2.0 g, 11.3 mmol) in CH2Cl2 (30 mL) was added PBr3 (1.0 M in CH2Cl2, 22.6 mmol). The reaction mixture was stirred for 3 h at room temperature before being quenched by NH4Cl (30 mL). The organic layer was separated, dried and concentrated. The resultant residue was purified by silica gel column chromatography (ethyl acetate/hexane=1:10) to afford 2-bromomethyl-6-fluoro-naphthalene (2.23 g, 74%).

reactant | (6-fluoro-naphthalen-2-yl)-methanol | 11.3 mmol, 2.0 g | FC=1C=C2C=CC(=CC2=CC1)CO | C11H9FO
reactant | PBr3 | 22.6 mmol, 1.0 M | P(Br)(Br)Br | Br3P
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-bromomethyl-6-fluoro-naphthalene | 2.23 g, 74% | BrCC1=CC2=CC=C(C=C2C=C1)F | C11H8BrF
